US06720320B2
ethyl 4-hydroxy-1-methylindole-2-carboxylate
To a solution (200 ml) of ethyl 4-benzyloxy-1-methylindole-2-carboxylate (13.0 g) in ethanol was added 10% palladium-carbon (1.3 g), and the mixture was stirred at room temperature for 8 hr under a hydrogen atmosphere. The palladium-carbon was filtered off with celite and the reaction mixture was concentrated under reduced pressure to give the title compound (8.0 g) as a brown oil.

reactant | ethyl 4-benzyloxy-1-methylindole-2-carboxylate | 200 ml, 13.0 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C19H19NO3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | 1.3 g | [C].[Pd]
product | ethyl 4-hydroxy-1-methylindole-2-carboxylate | 8.0 g | OC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C12H13NO3
